US09102614B2
Preparation of 3-methylnaphthalen-1-ol:
A slurry of 7-bromo-3-methylnaphthalen-1-ol (100 mg, 0.421 mmol), 10% w/w Pd/C (45 mg, 42.1 μmol Pd), and absolute EtOH (2.0 mL) was purged under vacuum and backfilled with H2 from a balloon several times. The suspension was stirred under a balloon of H2 at 23° C. overnight. The reaction was filtered over Celite, the cake was washed with EtOAc. The filtrate was concentrated and dissolved in DCM. The solution was wet-loaded onto a 12 g “gold” ISCO silica gel column and purified by flash chromatography (ethyl acetate/hexanes) giving the desired product (yield was not found). 1H NMR (400 MHz, CDCl3) δ 8.10 (d, J=7.8 Hz, 1H), 7.72 (d, J=7.8 Hz, 1H), 7.47-7.39 (m, 2H), 7.22 (s, 1H), 6.67 (s, 1H), 2.45 (s, 3H).

reactant | 7-bromo-3-methylnaphthalen-1-ol | 0.421 mmol, 100 mg | BrC1=CC=C2C=C(C=C(C2=C1)O)C | C11H9BrO
catalyst | Pd/C | 42.1 μmol, 45 mg | [Pd] | Pd
solvent | EtOH | 2.0 mL | CCO | C2H6O
product | 3-methylnaphthalen-1-ol | CC=1C=C(C2=CC=CC=C2C1)O | C11H10O
